US07452949B2
4d Preparation of 9-(4-tert-Butylphenyl)-2-methyl-5,6,7,8-tetrahydro-1H-cyclopenta[b]naphthalene (4d)
LiAlH4 (0.95 g, 25 mmol) was added at −20° C. to the solution of 4-(4-tert-Butylphenyl)-2-methyl-2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-1-one (16.6 g, 50 mmol) in Et2O (150 ml). Resulting mixture was allowed to warm to room temperature and stirred for additional 1 h. Then 5% HCl (100 ml) was added, the resulting mixture was extracted by Et2O (3 times of 50 ml). Combined organic phases were washed by water, dried over MgSO4 and evaporated. Benzene (300 ml) and p-TSA (0.5 g) were added, and resulting solution was refluxed with Dean Stark head (control by TLC, benzene/EtOAc 4:1) within 4 h. Then the resulting solution was washed by water, aq. KHCO3, water, dried over MgSO4, passed through silica gel and evaporated giving 12.8 g (81%) of product.

reactant | LiAlH4 | 25 mmol, 0.95 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(4-tert-Butylphenyl)-2-methyl-2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-1-one | 50 mmol, 16.6 g | C(C)(C)(C)C1=CC=C(C=C1)C1=C2C(=CC=3CCCCC13)C(C(C2)C)=O | C24H28O
reactant | HCl | 100 ml | Cl | ClH
reactant | benzene EtOAc | C1=CC=CC=C1.CCOC(=O)C
solvent | Et2O | 150 ml | CCOCC | C4H10O
product | 9-(4-tert-Butylphenyl)-2-methyl-5,6,7,8-tetrahydro-1H-cyclopenta[b]naphthalene | 12.8 g, 81% | C(C)(C)(C)C1=CC=C(C=C1)C1=C2C(=CC=3CCCCC13)C=C(C2)C | C24H28
